US06239077B1
4-Chlorophenoxyacetaldehyde dimethylacetal (1.0 g) was dissolved in acetone (10 ml), to which 2N hydrochloric acid (1.0 g) was added, and the mixture was heated under reflux for 8 hours. After the reaction mixture was concentrated, water was added and the mixture was extracted with ethyl acetate. The extracts were dried over anhydrous sodium sulfate. The solvent was distilled off to obtain 4-chlorophenoxyacetaldehyde as a crude product.

reactant | 4-Chlorophenoxyacetaldehyde dimethylacetal | 1.0 g | COC(COC1=CC=C(C=C1)Cl)OC | C10H13ClO3
reactant | hydrochloric acid | 2N, 1.0 g | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-chlorophenoxyacetaldehyde | yield 24% | ClC1=CC=C(OCC=O)C=C1 | C8H7ClO2
